US06156493
Chimeric tetramers with mixed WT streptavidin and W120A subunits were created by mixing equimolar amounts of WT streptavidin and W120A, denaturation in guanidine thiocyanate, followed by slow renaturation of the denatured protein by dialysis, as follows: 2.4 mg each of WT streptavidin and W120A (protein volume=1.13 ml) were incubated in 7.6 ml, 6M guanidine thiocyanate for 1 h at room temp, and dialyzed overnight in 4 L 25 mM Tris.Cl, 80 mM glycine at 4° C. The dialysate was then recovered for further purification. Upon refolding, a number of distinct protein populations result: chimeric tetramers with subunit stoichiometries of 1:3. 2:2 and 3:1 (WT:W120A), parent WT and W120A, and denatured protein subunits caused by aggregation/misfolding. The separation of the chimeric tetramers from parent W120A tetramers and misfolded/aggregated protein utilized 2-iminobiotin affinity chromatography. W120A exhibits<103M-1 affinity for 2-iminobiotin. Passage of the dialysate over an iminobiotin column, and elution of bound protein at pH 4, resulted in the recovery of - 20% of the original protein, consisting of chimeric tetramers and parent WT streptavidin (FIG. 6A). The dialysate was equilibrated in binding buffer (50 mM sodium carbonate, 0.5 M NaCl, pH 11) and passed over a 10 ml iminobiotin column (Pierce, Rockford, Ill.). Unbound protein (- 4 mg) was eluted in binding buffer, and specifically bound protein (0.8 mg) was eluted in 50 mM sodium acetate, 0.5 M NaCl, pH 4. The recovered protein was concentrated, and exchanged into PBS, pH 7.4 by diafiltration. The separation of chimeric tetramers from parent WT streptavidin used the vastly differing biotin off rates of WT streptavidin and W120A. The protein was incubated with - 2-fold excess of biotin, and exhaustively ultrafiltered to remove the excess biotin. Since the t1/2 of WT-biotin complex is 35 h, while that of W120A is <102 s, this results in the removal of biotin from a substantial fraction of W120A biotin-binding sites as well. The protein was then passed over a biotin column, washed with buffer, and then eluted with 2 mM biotin (FIG. 6B). Parent WT streptavidin tetramers saturated with biotin did not bind to the column, while WT streptavidin tetramers with free biotin-binding sites bind irreversibly to the biotin column (cf. FIG. 5B). This step effectively separates the chimeric tetramers from the parent WT streptavidin tetramers.

reactant | sodium carbonate | 50 mM | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaCl | 0.5 M | [Na+].[Cl-]
reactant | iminobiotin | 10 ml | N=C(C(O)=O)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H15N3O3S
solvent | guanidine thiocyanate | [S-]C#N.NC(=N)N
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
